US04411753
3-chloro-6-(1-ethyl-1-methylpropyl)pyridazine
To 34 g. of 6-(1-ethyl-1-methylpropyl)-3-pyridazinone was added 175 ml. of phosphorus oxychloride, and the mixture was stirred under reflux for 30 minutes. It was then cooled, excess phosphorus oxychloride was removed under vacuum, and the residual oil was poured into ice water. The residue was made basic to pH 9 with ammonia, and triturated. The aqueous mixture so prepared was extracted with two one-liter portions of diethyl ether, and the combined organics were dried and evaporated under vacuum to obtain 35 g. of the desired product, identified by mass spectroscopy, which showed a molecular ion having a weight of 198.

reactant | 6-(1-ethyl-1-methylpropyl)-3-pyridazinone | C(C)C(CC)(C)C=1C=CC(NN1)=O | C10H16N2O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-chloro-6-(1-ethyl-1-methylpropyl)pyridazine | ClC=1N=NC(=CC1)C(CC)(C)CC | C10H15ClN2
